US08106045B2
To a solution of (S)-2-(4-(cyclohexylamino)phenyl)-4-((R)-1-phenylethyl)morpholine (6.95 g, 19.1 mmol) and formalin (35%, 8.18 ml, 95.4 mmol) was added sodium triacetoxyborohydride (12.1 g, 57.2 mmol) at room temperature. After stirring for 30 minutes, the resulting suspension was partitioned between ethyl acetate and 1 N sodium hydroxide. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel chromatography eluting 5-20% ethyl acetate in hexane to furnish (2S)-2-(4-(N-cyclohexyl-N-methylamino)phenyl)-4-((1R)-1-phenylethyl)morpholine (7.27 g, quant.) as a pale yellow oil.

reactant | (S)-2-(4-(cyclohexylamino)phenyl)-4-((R)-1-phenylethyl)morpholine | 19.1 mmol, 6.95 g | C1(CCCCC1)NC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C24H32N2O
reactant | formalin | 95.4 mmol, 8.18 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 57.2 mmol, 12.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | (2S)-2-(4-(N-cyclohexyl-N-methylamino)phenyl)-4-((1R)-1-phenylethyl)morpholine | 7.27 g | C1(CCCCC1)N(C)C1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C25H34N2O
